US06441052B1
A solution of 4-cyclopentylpentanoic acid (16 g; 94 mmol) in diethyl ether (30 ml) and THF (30 ml) was added within 20 minutes to lithium aluminum hydride (3.6 g; 94 mmol) and suspended in the same solvent (100 ml). After 2 hours at reflux, the reaction mixture was cooled with an ice-bath and quenched successively with water (4 ml), 15% sodium hydroxide (12 ml) and again water (4 ml). The white solid was filtered off, and the mixture diluted with MTBE (300 ml), washed with 1 N HCl (300 ml), sodium bicarbonate solution (300 ml) and brine (2×300 ml), dried (MgSO4), concentrated in vacuo, and distilled (59° C./0.075 torr) to give 8.7 g (59% yield) of 4-cyclopentylpentan-1-ol.

reactant | 4-cyclopentylpentanoic acid | 94 mmol, 16 g | C1(CCCC1)C(CCC(=O)O)C | C10H18O2
reactant | lithium aluminum hydride | 94 mmol, 3.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-cyclopentylpentan-1-ol | 8.7 g, 59% yield | C1(CCCC1)C(CCCO)C | C10H20O
